US07872009B2
Step 1: 3-Phenylcyclopentanone
A mixture of phenylboronic acid (1.63 g, 13.4 mmol), cyclopent-2-enone (1.0 g, 10.4 mmol), and Na2CO3 (2.2 g, 20.8 mmol) was purged with nitrogen for 15 min followed by the addition of [Rh(cod)Cl]2 (100 mg, 0.21 mmol) and water (30 mL). The resulting suspension was heated to 80° C. for 20 min. The mixture was extracted with CH2Cl2, washed with brine, dried over MgSO4 and chromatographed on silica gel using 3:1 hexanes:ethylacetate to afford the title compound as a colorless oil. MS m/z: 161 (M+1).

reactant | phenylboronic acid | 13.4 mmol, 1.63 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cyclopent-2-enone | 10.4 mmol, 1.0 g | C1(C=CCC1)=O | C5H6O
reactant | Na2CO3 | 20.8 mmol, 2.2 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 30 mL | O | H2O
product | 3-Phenylcyclopentanone | C1(=CC=CC=C1)C1CC(CC1)=O | C11H12O
